US05367079
Using an analogous procedure to that described in Example 2, (1SR,3RS,4SR)-1,4-dimethyl-1-hydroxy-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane was reacted with methyl iodide to give (1SR,3RS,4SR)-1,4-dimethyl-1-methoxy-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane as an oil in 58% yield.

reactant | (1SR,3RS,4SR)-1,4-dimethyl-1-hydroxy-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane | CC1(CC(C(CC1)C)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O)O | C25H29NO3
reactant | methyl iodide | CI | CH3I
product | (1SR,3RS,4SR)-1,4-dimethyl-1-methoxy-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane | 58% yield | CC1(CC(C(CC1)C)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O)OC | C26H31NO3
